US07667041B2
Synthesis of (E)-1-indan-2-yl-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one
To a DMF (50 mL) solution of (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid indan-2-ylamide (6.9 g), sodium hydride (40% mineral oil content, 740 mg) was added at room temperature, and the reaction solution was agitated at room temperature for 1 hour and 30 minutes. The reaction solution was poured into iced water after the reaction ended, and the deposited solids were separated by filtering. 4.9 g of the title compound was obtained by recrystallizing the obtained solid from a mixed solvent of ethyl acetate, ethanol, and hexane. The physical properties of the compound are as follows.

reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid indan-2-ylamide | 6.9 g | C1C(CC2=CC=CC=C12)NC(/C(/CCCCl)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C26H28ClN3O2
reactant | sodium hydride | 740 mg | [H-].[Na+]
solvent | water | O | H2O
product | (E)-1-indan-2-yl-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one | 4.9 g | C1C(CC2=CC=CC=C12)N1C(/C(/CCC1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C26H27N3O2
